US04801708
10.0 g (0.04 mole) of 4-methylamino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one, 1.6 g (0.05 mole) of methylamine and 50 ml of isopropanol are heated for 4 hours in a bomb tube to 155° C. The resultant clear orange solution is concentrated by evaporation and the residue is chromatographed through silica gel eluted with a 95:5 mixture of methylene chloride/ether. The eluate is concentrated by evaporation and the residue is washed with petroleum ether, affording 8.1 g (88% of theory) of 3,4-bis(methylamino)-6-phenyl-4H-1,2,4-triazin-5-one with a melting point of 150°-151° C.

reactant | 4-methylamino-3-methylthio-6-phenyl-4H-1,2,4-triazin-5-one | 0.04 mole, 10.0 g | CNN1C(=NN=C(C1=O)C1=CC=CC=C1)SC | C11H12N4OS
reactant | methylamine | 0.05 mole, 1.6 g | CN | CH5N
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 3,4-bis(methylamino)-6-phenyl-4H-1,2,4-triazin-5-one | 8.1 g, 88% | CNC1=NN=C(C(N1NC)=O)C1=CC=CC=C1 | C11H13N5O
